datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61](/[C:10](F)=[C:11](\[O-:12])[O:82]CC)=[O:62].[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>CC[O:72][C:61]([C:10](F)([C:11](=[O:12])[O:82]CC)[CH2:20][C:31]12C3(C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])=[O:62] 10,11=10,20;12=11,12"
C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[C:61]3=[C:62](C=CC=C3)[N:72]=[CH:71]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].C[C:63]1=[N+:62]([BH2-:11][H:10])[C:73](C)=[CH:74][CH:65]=[CH:64]1>>CC[O:33][C:31]([CH:20]([H:10])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32].C[C:63]1=[N+:62]([BH2:11])[C:73](C)=[CH:74][CH:65]=[CH:64]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1 10,11=10,20;12=11,12"
"Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1.O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH:10]1>>Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.O=C1C2=C(C=CC=C2)C(=O)N1C[C@@H]1CCC[NH+:10]1[F:20] 10=20;20,21=21"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N:10][C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C>>[H][C@]1([C@@H](O)[C:63]2=[CH:62][CH:61]=[N+:10]([CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CNC5=CC=CC=C45)C(=O)N(C)C3(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:71]3=[C:72]2C=C(OC)C=C3)C[C@@H]2CCN1CC2C=C 10=20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.N#CC1=CC=C([N+:61]#[C-:10])C=C1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]#[N+:61]C2=CC=C(C#N)C=C2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>C[C:20]1([H:10])CCC[C:22]([O-:23])=[CH:21]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]1[CH:11]=[N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:65]=[CH:66]2)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;20,21=21"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]1>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.C[C:65]1=[CH:64][CH:63]=[C:62]([CH:11]=[CH2:10])[CH:73]=[CH:75]1>>C[C:65]1=[CH:64][CH:63]=[C:62]([CH+:11][CH2:10][CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)[CH:73]=[CH:75]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CC[O:72][C:61]([C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C12CCCC2)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:81](=[O:82])[O:92]CC)[C:101](C)=[O:102])=[O:62] 10=20;20,21=21,22;22,23=23"
